US08633175B2
Step 1: methyl 4′-[((4,4-dimethylcyclohexyl){[(1,1-dimethylethyl)oxy]carbonyl}amino)methyl]-3-biphenylcarboxylate
A flask equipped with a septum-sealed reflux condenser was charged with 1,1-dimethylethyl[(4-bromophenyl)methyl](4,4-dimethylcyclohexyl)carbamate (0.988 g; 2.49 mmol; Example V-11), {3-[(methyloxy)carbonyl]phenyl}boronic acid (0.493 g; 2.74 mmol), Pd(OAc)2 (0.0028 g; 0.012 mmol) and 2-(2′,6′-dimethoxybiphenyl)di-cyclohexylphosphine (S-Phos; 0.010 g; 0.025 mmol) was evacuated and back-filled with N2 several times. PhMe/EtOH (4:1 v/v, 7.5 mL), and 2M Na2CO3 were added via syringe through the condenser's septum and the mixture was heated under reflux for 2 h (until consumption of the aryl bromide was observed). Upon cooling, the mixture was poured into EtOAc/water, the whole was filtered through a 0.45 μm PTFE membrane filter and the layers were separated. The aqueous layer was extracted with EtOAc, combined organics were washed (brine), dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash chromatography (EtOAc/hexanes), affording the title compound as a colorless gum/syrup. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.85 (s, 6H), 1.07-1.79 (m, 18H), 3.89 (s, 3H), 4.42 (br. s., 2H), 7.36 (d, J=8.03 Hz, 2H), 7.62 (t, J=7.85 Hz, 1H), 7.67 (d, J=8.03 Hz, 2H), 7.95 (t, J=6.96 Hz, 2H), 8.18 (s, 1H).

reactant | 1,1-dimethylethyl[(4-bromophenyl)methyl](4,4-dimethylcyclohexyl)carbamate | 2.49 mmol, 0.988 g | CC(C)(C)C1(CCC(CC1)(C)C)N(C([O-])=O)CC1=CC=C(C=C1)Br
reactant | {3-[(methyloxy)carbonyl]phenyl}boronic acid | 2.74 mmol, 0.493 g | COC(=O)C=1C=C(C=CC1)B(O)O | C8H9BO4
catalyst | Pd(OAc)2 | 0.012 mmol, 0.0028 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | methyl 4′-[((4,4-dimethylcyclohexyl){[(1,1-dimethylethyl)oxy]carbonyl}amino)methyl]-3-biphenylcarboxylate | CC1(CCC(CC1)N(C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)OC)C | C28H37NO4
